US07863302B2
4-{4-bromo-3-methyl-phenoxymethyl)-5-cyclopropyl-3-(2,6-dichloro-phenyl}-isoxazole
A solution of 4-bromo-3-methyl-phenol (143 mg, 0.764 mmol) and 4-bromomethyl-5-cyclopropyl-3-(2,6-dichloro-phenyl)-isoxazole (221 mg, 0.636 mmol) in dimethylformamide (1 mL) is treated with potassium carbonate (89 mg, 0.637-mmol). The reaction mixture is heated to 80° C. for 60 minutes and cooled to room temperature. The mixture is loaded directly onto a silica gel column and purified by flash chromatography eluting with 15% EtOAc/Hexanes. The fractions are combined to provide the title compound (0.26 g, 92%). LC-MS: (M+1);

reactant | 4-bromo-3-methyl-phenol | 0.764 mmol, 143 mg | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | 4-bromomethyl-5-cyclopropyl-3-(2,6-dichloro-phenyl)-isoxazole | 0.636 mmol, 221 mg | BrCC=1C(=NOC1C1CC1)C1=C(C=CC=C1Cl)Cl | C13H10BrCl2NO
reactant | potassium carbonate | 0.637-mmol, 89 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-{4-bromo-3-methyl-phenoxymethyl)-5-cyclopropyl-3-(2,6-dichloro-phenyl}-isoxazole | 0.26 g, 92% | BrC1=C(C=C(OCC=2C(=NOC2C2CC2)C2=C(C=CC=C2Cl)Cl)C=C1)C | C20H16BrCl2NO2
